US08309546B2
5-{8-[4-(Aminoacetyl)piperazin-1-yl]-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
1-Hydroxybenzotriazole monohydrate (33.8 mg, 0.22 mmol), 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (63.4 mg, 0.33 mmol), and triethylamine (82.9 μl, 0.60 mmol) were added to an N,N-dimethylformamide suspension (2.0 ml) of 5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine (96.2 mg, 0.22 mmol) and N-tert-butoxycarbonyl-glycine (46.3 mg, 0.26 mmol) at room temperature. The resulting mixture was stirred for 3 days and then the reaction mixture was poured into dichloromethane-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was dissolved in dichloromethane (4.0 ml) followed by the addition of trifluoroacetic acid (2.0 ml) with ice cooling. The resulting mixture was stirred at room temperature for 2 hours and the concentrated, dichloromethane was added to the residue, and the resulting mixture was neutralized with saturated aqueous sodium hydrogen carbonate solution. The resulting mixture was extracted with dichloromethane-methanol (10:1), dried over anhydrous sodium sulfate, and then filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (dichloromethane:methanol=5:1) to give the title compound (19.1 mg, 18%) as a pale yellow solid.

reactant | 1-Hydroxybenzotriazole monohydrate | 0.22 mmol, 33.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.33 mmol, 63.4 mg | Cl.CN(C)CCCN=C=NCC
reactant | triethylamine | 0.60 mmol, 82.9 μl | C(C)N(CC)CC | C6H15N
reactant | 5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.22 mmol, 96.2 mg | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H28N10O
reactant | N-tert-butoxycarbonyl-glycine | 0.26 mmol, 46.3 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | dichloromethane methanol | ClCCl.CO
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 5-{8-[4-(Aminoacetyl)piperazin-1-yl]-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 19.1 mg, 18% | NCC(=O)N1CCN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1 | C23H31N11O2
